US06479536B1
N-(4-Hydroxy-2,3,6-trimethylphenyl)formamide (30.0 g, 167 mmol) was dissolved into a mixed solvent of a 4 N aqueous solution of potassium hydroxide (100 ml) and methanol (300 ml) and dimethyl sulfate (42.0 g, 334 mmol) was added to the resulting solution at room temperature. The resulting mixture was refluxed with heating for 14 hours. After the reaction solution was cooled down, the crystals precipitated were collected by filtration to obtain N-(4-methoxy-2,3,6-trimethylphenyl)formamide as a crude product. To a suspension of this compound in methanol (200 ml) was added concentrated hydrochloric acid (50 ml) and the resulting mixture was refluxed with heating for 3 hours. The reaction mixture was cooled down and neutralized with an 8 N aqueous solution of sodium hydroxide. The product was extracted twice with ethyl acetate. The combined extracts were washed with a 10% aqueous solution of sodium hydrosulfite, dried on magnesium sulfate, and then concentrated under reduced pressure. The residue was crystallized from isopropyl ether to obtain 21.0 g (yield 76%) of the title compound. Melting point: 70-72° C.

reactant | N-(4-Hydroxy-2,3,6-trimethylphenyl)formamide | 167 mmol, 30.0 g | OC1=C(C(=C(C(=C1)C)NC=O)C)C | C10H13NO2
reactant | potassium hydroxide | 100 ml | [OH-].[K+]
reactant | dimethyl sulfate | 334 mmol, 42.0 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | methanol | 300 ml | CO | CH4O
product | N-(4-methoxy-2,3,6-trimethylphenyl)formamide | COC1=C(C(=C(C(=C1)C)NC=O)C)C | C11H15NO2
